US06518423B1
4-(1-Benzyl-1,2,5,6-tetrahydropyrid-4-yl)phenethyl alcohol
To a solution of 1.0 g of 1-benzyl-4-[4-[2-(methoxymethoxy)ethyl]phenyl]piperidin-4-ol in 30 ml of toluene was added 2.0 g of p-toluenesulfonic acid. Then the resulting mixture was heated under reflux for 1 hour while eliminating the water thus formed with a Dean Stark trap. Then the reaction mixture was brought back to room temperature and a saturated aqueous solution of sodium bicarbonate was added thereto. Then it was extracted with ethyl acetate, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 0.2 g of the title compound as a brown oily substance.

reactant | 1-benzyl-4-[4-[2-(methoxymethoxy)ethyl]phenyl]piperidin-4-ol | 1.0 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)CCOCOC | C22H29NO3
reactant | p-toluenesulfonic acid | 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1-Benzyl-1,2,5,6-tetrahydropyrid-4-yl)phenethyl alcohol | 0.2 g | C(C1=CC=CC=C1)N1CC=C(CC1)C1=CC=C(CCO)C=C1 | C20H23NO
